US04575504
2-Amino-7-propionyl-6,7,8,9-tetrahydro-5H-thiazolo[4',5':5,4]thieno[2,3-d]azepine
This compound was prepared from 2-amino-6-propionyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride, potassium thiocyanate and bromine analogous to Example 1.

reactant | 2-amino-6-propionyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride | Cl.NC1=CC2=C(CCN(CC2)C(CC)=O)S1
reactant | potassium thiocyanate | [S-]C#N.[K+]
reactant | bromine | BrBr | Br2
product | 2-Amino-7-propionyl-6,7,8,9-tetrahydro-5H-thiazolo[4',5':5,4]thieno[2,3-d]azepine | NC=1SC2=C(SC=3CCN(CCC32)C(CC)=O)N1 | C12H15N3OS2
